US09403808B2
5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid ((S)-1-carbamoyl-3-methyl-butyl)-amide
The title compound was synthesized in analogy to Example 6, using 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (Example 10 g) and (2S)-2-amino-4-methyl-pentanamide hydrochloride (1:1) (CAN 10466-61-2) as starting materials, and isolated (46 mg, 62%) as light yellow gum; LC-MS (UV peak area, ESI) 100%, 347.2081 (M+H).

reactant | 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid | 10 g | C1(CC1)C=1N=CC(=NC1OCC1CC1)C(=O)O | C12H14N2O3
reactant | (2S)-2-amino-4-methyl-pentanamide hydrochloride | Cl.N[C@H](C(=O)N)CC(C)C
product | 5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid ((S)-1-carbamoyl-3-methyl-butyl)-amide | C(N)(=O)[C@H](CC(C)C)NC(=O)C1=NC(=C(N=C1)C1CC1)OCC1CC1 | C18H26N4O3
